US06387908B1
Ethyl (2S,3S)-3-[[1-(S)-[α-(R)-acetoxybenzyl]-3-methylbutyl]carbamoyl]oxirane-2-carboxylate (Compound No 22)
In pyridine (0.6 mL) was dissolved ethyl (2S,3S)-3-[[1-(S)-[α-(R)-hydroxybenzyl]-3-methylbutyl]carbamoyl]oxirane-2-carboxylate (300 mg, 0.894 mmol.). To the resulting solution was added acetic anhydride (0.085 mL, 0.901 mol.) under chilling with ice. The mixture was stirred for 18 hours at room temperature, and extracted with ether (8 mL, 3 portions) after addition of water (10 mL). The organic portion was washed successively with water, 1N hydrochloric acid, and an aqueous saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=2/1), to give the titled compound as a slightly brownish crystalline product (267 mg, yield: 79%).

reactant | ethyl (2S,3S)-3-[[1-(S)-[α-(R)-hydroxybenzyl]-3-methylbutyl]carbamoyl]oxirane-2-carboxylate | 0.894 mmol, 300 mg | O[C@H](C1=CC=CC=C1)[C@H](CC(C)C)NC(=O)[C@@H]1[C@H](O1)C(=O)OCC | C18H25NO5
reactant | acetic anhydride | 0.901 mol, 0.085 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.6 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl (2S,3S)-3-[[1-(S)-[α-(R)-acetoxybenzyl]-3-methylbutyl]carbamoyl]oxirane-2-carboxylate | C(C)(=O)O[C@H](C1=CC=CC=C1)[C@H](CC(C)C)NC(=O)[C@@H]1[C@H](O1)C(=O)OCC | C20H27NO6
